US09447083B2
2-Bromo-6-methylphenol (800 mg, 4.28 mmol), 3-furan boronic acid (574 mg, 5.13 mmol), sodium carbonate (1400 mg, 12.8 mmol) and Pd2(dppf)2Cl2 (699 mg, 0.82 mmol) were dissolved in dimethoxyethane/water 10 mL/10 mL, followed by stirring in microwave at 120° C. for 20 minutes. After the completion of the reaction, the reaction mixture was filtered using Celite. The filtrate was added with water, and extracted with ethyl acetate. The obtained organic layer was dried over magnesium sulfate, and purified by column chromatography (ethyl acetate:hexane=1:3) to obtain 2-(furan-3-yl)-6-methylphenol (273 mg, 26%).

reactant | 2-Bromo-6-methylphenol | 4.28 mmol, 800 mg | BrC1=C(C(=CC=C1)C)O | C7H7BrO
reactant | 3-furan boronic acid | 5.13 mmol, 574 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 12.8 mmol, 1400 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane water | 10 mL | C(OC)COC.O
product | 2-(furan-3-yl)-6-methylphenol | 273 mg, 26% | O1C=C(C=C1)C1=C(C(=CC=C1)C)O | C11H10O2
